US05534535
Sodium carbonate (40 mg, 0.37 mmol) was dissolved in water (0.7 mL) and methanol (3 mL) and ethanol (3 mL) were added. To this stirred mixture was added (±)(1R*, 2S*, 3S*, 5S*)-3-(acetoxymethyl)-5-(5,6-dichloro-2-iodo-1H-benzimidazol-1-yl)-1,2-cyclopentanediyl diacetate (215 mg, 0.37 mmol). After 2 hours at ambient temperature, acetic acid was added to adjust the pH to 7 and volatiles were evaporated in vacuo. Resolidification of the residual solid from 3:1 ethanol-water gave (±)-(1R*, 2S*, 3S*, 5S*)-5-(5,6-dichloro-2-iodo-1H-benzimidazol-1-yl)-3-(hydroxymethyl)-1,2-cyclopentanediol as a white powder (153 mg, 94%), m.p. 209°-210° C. dec.; 1H-NMR(DMSO-d6)δ: 8.22 and 7.91 (both s, 2, 2 aromatic CH), 5.12 (t, J=4.5 Hz, 1, OH), 4.95 (d, J=6.2 Hz, 1, OH), 4.9-4.8 (m, 1, NCH), 4.70 (t, J=3.5 Hz, 1, OH), 4.6-4.5 (m, 1, OCH), 3.9-3.8 (m, 1, OCH), 3.7-3.6 and 3.55-3.45 (both m, 1 each, OCH2), 2.2-2.0 (m, 3, CH2 and CH); mass spectrum(CI): 443 (M+1).

reactant | Sodium carbonate | 0.37 mmol, 40 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | methanol | 3 mL | CO | CH4O
reactant | ethanol | 3 mL | C(C)O | C2H6O
reactant | 3-(acetoxymethyl)-5-(5,6-dichloro-2-iodo-1H-benzimidazol-1-yl)-1,2-cyclopentanediyl diacetate | 0.37 mmol, 215 mg | C(C)(=O)OC1C(C(CC1N1C(=NC2=C1C=C(C(=C2)Cl)Cl)I)COC(C)=O)OC(C)=O | C19H19Cl2IN2O6
solvent | water | 0.7 mL | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-(5,6-dichloro-2-iodo-1H-benzimidazol-1-yl)-3-(hydroxymethyl)-1,2-cyclopentanediol | 153 mg, 94% | ClC1=CC2=C(N(C(=N2)I)C2CC(C(C2O)O)CO)C=C1Cl | C13H13Cl2IN2O3
